US07884099B2
Step 1: 4-(Piperidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester.
To a solution of 4-(1-benzyl-piperidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.51 g) in 20 mL acetic acid was added 0.23 g 10% palladium on carbon, the resulting suspension was shaken under hydrogen (50 psi) in Parr shaker apparatus for 12 hours. The suspension was filtered through a layer of celite and the solvent was removed under vacuum. To the residue was added 10% aq. NaOH and extracted with dichloromethane (2×). The combined organic layers were washed with saturated brine and dried over anhydrous sodium sulfate. The title compound was obtained as clear syrup (1.16 g). ESI MS m/z 284 (M+H+); 1H NMR (400 MHz, CDCl3) δ 4.00 (m, 2H), 3.06 (d, J=10.1 Hz, 2H), 2.74 (m, 4H), 2.57 (t, J=10.1 Hz, 2H), 1.81 (t, J=14.1 Hz, 1H), 1.42 (s, 9H), 1.17 (m, 4H).

reactant | 4-(1-benzyl-piperidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.51 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1CCN(CC1)CC1=CC=CC=C1 | C22H35N3O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.23 g | [Pd] | Pd
product | 4-(Piperidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1CCNCC1 | C15H29N3O2
